* Created with https://github.com/ladmanj/bode2spice
*
.subckt MODELNAME 1 2
R1 1 2 100G
* (Freq, mag, deg)
B1 1 2  I=V(1,2) DB FREQ=
MODELDEF
.ends MODELNAME
